US06180622B2
Iodomethane (1.00 g) is added to 43.2 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[(imidazo[5,1-b]thiazol-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, and the mixture is allowed to stand in an argon atmosphere in a light-shielded state at room temperature for 19 hr. The excess reagent is removed by evaporation under reduced pressure to give 52.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[(6-methylimidazo[5,1-b]thiazolium-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a slightly yellowish solid.

reactant | Iodomethane | 1.00 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[(imidazo[5,1-b]thiazol-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 43.2 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)NCC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H33N5O7S2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[(6-methylimidazo[5,1-b]thiazolium-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 52.6 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)NCC=1N(C=C2SC=C[N+]21)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C29H35N5O7S2.HI/c1-6-9-40-28(38)24-25(16(3)23-22(17(4)35)27(37)34(23)24)43-18-12-19(33(14-18)29(39)41-10-7-2)26(36)30-13-20-31(5)15-21-32(20)8-11-42-21;/h6-8,11,15-19,22-23,35H,1-2,9-10,12-14H2,3-5H3;1H/t16-,17-,18+,19+,22-,23-;/m1./s1
